US07598391B2
4-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester
Prepared as described in general procedure P using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (1.0 g, 3.0 mmol), piperazine-1-carboxylic acid tert-butyl ester (838 mg, 4.5 mmol), acetic acid (40 μL, 0.6 mmol) and sodium triacetoxyborohydride (765 mg, 3.6 mmol) to afford 835 mg (55%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 3.0 mmol, 1.0 g | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | piperazine-1-carboxylic acid tert-butyl ester | 4.5 mmol, 838 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | acetic acid | 0.6 mmol, 40 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.6 mmol, 765 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 4-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | 835 mg, 55% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1 | C26H43N5O3S
